US08980911B2
To a solution of 3,5-difluorobenzoic acid (10 gm, 63.2 mmol) in dichloromethane (100 mL) was added oxalyl chloride (11.96 gm, 94.9 mmol) at 0° C. followed by addition of dimethylformamide (2 mL). The resulting reaction mixture was stirred for about 3 hours at room temperature. Methanol (100 mL) was added to the reaction mass and stirring was continued further for 20-30 minutes. Solvents were evaporated to obtain an oily mass which was further purified by column chromatography over silica gel (100-200) using ethyl acetate/hexane gradient elution to afford colorless methyl 3,5-difluorobenzoate (10 gm, 91.91%).

reactant | 3,5-difluorobenzoic acid | 63.2 mmol, 10 gm | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
reactant | oxalyl chloride | 94.9 mmol, 11.96 gm | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | Methanol | 100 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | methyl 3,5-difluorobenzoate | 10 gm, 91.91% | FC=1C=C(C(=O)OC)C=C(C1)F | C8H6F2O2
